US05288871
2-Methoxy-4-methylphenyl benzoate
The synthesis of this compound proceeded in the same fashion as in Example 1 using 27.63 g (0.20 mol) of 2-methoxy-4-methyl phenol, 22.26 g (0.22 mol) of triethylamine and 28.11 g (0.20 mol) of benzoyl chloride. The product amounted to 46.78 g, m.p. 73°-75° C.

reactant | 2-methoxy-4-methyl phenol | 0.20 mol, 27.63 g | COC1=C(C=CC(=C1)C)O | C8H10O2
reactant | triethylamine | 0.22 mol, 22.26 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.20 mol, 28.11 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-Methoxy-4-methylphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C)OC | C15H14O3
